US04622318
To a solution of triphenylmethanethiol (1.41 g) and 3-ethynylpyridine (0.5 g) in anhydrous tetrahydrofuran (10 ml) was added potassium t-butoxide (571 mg) at ambient temperature. The mixture was refluxed for 2 hours. After the reaction mixture was cooled to ambient temperature, the reaction mixture was poured into ice-water. The mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give a crystal. The crystal was washed with ethanol and dried to give 3-[(Z)-2-(tritylthio)vinyl]pyridine (1.11 g).

reactant | triphenylmethanethiol | 1.41 g | C1(=CC=CC=C1)C(S)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16S
reactant | 3-ethynylpyridine | 0.5 g | C(#C)C=1C=NC=CC1 | C7H5N
reactant | potassium t-butoxide | 571 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[(Z)-2-(tritylthio)vinyl]pyridine | 1.11 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S\C=C/C=1C=NC=CC1 | C26H21NS
